US07402608B2
To a solution of (1R, 2S, 4R)-2-Hydroxy-4-methyl-cyclohexanecarboxylic acid (162 mg, 1.02 mmol) in dichloromethane (5 ml) was added pyridine (495 ul, 6.12 mmol) followed by acetic anhydride (385 ul, 4.08 mmol). The reaction mixture was stirred for 20 h at room temperature. Then, the solvents were removed and 10 ml of 3N HCl solution was added. This mixture was stirred for 30 minutes and then a saturated solution of NaHCO3 was slowly added until PH=9-10. This solution was then extracted with ethyl acetate (2×5 ml). The aqueous phase was then acidified with a 10% HCl solution and extracted with ethyl acetate (3×5 ml). The following ethyl acetate layers were combined, dried (Na2SO4) and concentrated to obtain 109 mg (53%) of (1R, 2S, 4R)-2-Acetoxy-4-methyl-cyclohexanecarboxylic acid.

reactant | (1R, 2S, 4R)-2-Hydroxy-4-methyl-cyclohexanecarboxylic acid | 1.02 mmol, 162 mg | O[C@@H]1[C@@H](CC[C@H](C1)C)C(=O)O | C8H14O3
reactant | pyridine | 6.12 mmol, 495 ul | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 4.08 mmol, 385 ul | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (1R, 2S, 4R)-2-Acetoxy-4-methyl-cyclohexanecarboxylic acid | 109 mg, 53% | C(C)(=O)O[C@@H]1[C@@H](CC[C@H](C1)C)C(=O)O | C10H16O4
